US07713969B2
To a solution of 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4(1H-indol-3-yl) pyrrole-2,5-dione (100 mg, see Example 1) in anhydrous dimethylformamide (5 ml) was added potassium carbonate (0.5 g) and methyl iodide (0.1 ml). The mixture was stirred at room temperature for 48 hours then poured into ethyl acetate. (100 ml), washed with water (100 ml), dried over anhydrous sodium sulfate and evaporated to give 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4(1-methylindol-3-yl)-1-methylpyrrole-2,5-dione as a red solid (93 mg). Step 2: To a solution of 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4(1-methylindol-3-yl)-1-methylpyrrole-2,5-dione (93 mg) in methanol (5 ml) and ethylacetate (5 ml) was added 10% Pd—C (50 mg) and the mixture stirred at room temperature under 1 atmosphere of hydrogen for 48 hours. Toluene (50 ml) was added and the mixture again stirred at room temperature under 1 atmosphere of hydrogen for 2 hours. The mixture was then filtered through a pad of celite and evaporated to dryness to yield a residue. The residue was purified using silica gel chromatography eluting with 35-40% ethylacetate in hexanes to give (±)-cis-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4(1-methylindol-3-yl)-1-methylpyrrolidine-2,5-dione as a pale yellow solid (53 mg). 1H NMR (CDCl3) 400 MHz δ: 7.23 (s, 1H), 7.05-7.07 (m, 2H), 7.01 (d, 1H, J=7.2 Hz), 6.92-6.97 (m, 1H), 6.85 (t, 1H, J=7.2 Hz), 6.74 (d, 1H, J=6.8 Hz), 6.64 (d, 2H, J=6.4 Hz), 4.78 (m, 2H), 3.75-3.84 (m, 2H), 3.45 (s, 3H), 3.27 (s, 3H), 2.79 (t, 2H, J=5.6 Hz), 1.98 (m, 2H).

reactant | 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4(1-methylindol-3-yl)-1-methylpyrrole-2,5-dione | 93 mg | C1(=CN2CCCC3=CC=CC1=C23)C=2C(N(C(C2C2=CN(C3=CC=CC=C23)C)=O)C)=O | C25H21N3O2
reactant | hydrogen | [H][H] | H2
reactant | Toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 5 ml | CO | CH4O
solvent | ethylacetate | 5 ml | C(C)OC(C)=O | C4H8O2
catalyst | Pd—C | 50 mg | [Pd] | Pd
product | (±)-cis-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4(1-methylindol-3-yl)-1-methylpyrrolidine-2,5-dione | 53 mg | C1(=CN2CCCC3=CC=CC1=C23)[C@@H]2C(N(C([C@@H]2C2=CN(C3=CC=CC=C23)C)=O)C)=O | C25H23N3O2
